* Monte Carlo - process + mismatch on an NMOS current mirror
.include "../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=1       ; die-to-die process variation on
.param MM_ON=1         ; local mismatch on

Vdd  dd 0 3.3
Iref dd in 10u
X1 in in 0 0 NMOS3V3 W=20u L=1u      ; diode-connected reference
X2 out in 0 0 NMOS3V3 W=20u L=1u     ; mirror output
Vout dd out 0

.control
  let n = 200
  let i = 0
  dowhile i < n
    reset
    op
    print abs(vout#branch)          ; mirror output current
    let i = i + 1
  end
.endc
.end
